US07319104B2
A solution of ethyl 2-[2-bromo-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (from step 1 in the previous example) (188 mg; 0.32 mmol) in DMF (2 ml) was treated with CuCN (37 mg; 0.41 mmol) and heated to reflux overnight under a nitrogen atmosphere. Upon cooling, the reaction mixture was filtered through a plug of silica gel and eluted with DMF. The filtrate was concentrated and partitioned between dichloromethane and brine. The organic phase was dried over MgSO4, filtered and concentrated to afford ethyl 2-[2-cyano-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (153 mg), which was used in the next step without further purification.

reactant | ethyl 2-[2-bromo-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | BrC1=C(OC(C(=O)OCC)(C)C)C=CC(=C1)CCN(CC1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C=N1)CC | C28H31BrF3N3O3
reactant | CuCN | 0.41 mmol, 37 mg | C(#N)[Cu]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | ethyl 2-[2-cyano-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 153 mg | C(#N)C1=C(OC(C(=O)OCC)(C)C)C=CC(=C1)CCN(CC1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C=N1)CC | C29H31F3N4O3
